US07220734B2
(R or S)-1-(5-(5-(4-(2-Methylpropyl)phenyl)-1,2,4-oxadiazol-3-yl]-2,3-dihydro-1H-inden-1-yl)azetidine-3-carboxylic acid
A solution of 4.5 g (8.1 mmol) of methyl (±)-1-(5-(5-(4-(2-Methylpropyl)phenyl)-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1H-inden-1-yl)azetidine-3-carboxylate, Enantiomer 1 (from Example 17, Step A) in 25 mL of MeOH was treated with 3.0 mL of 5.0 N NaOH and the resulting mixture was heated at reflux for 3 h. The mixture was cooled, diluted with 4:1 v/v CH2Cl2/MeOH and neutralized with concentrated HCl. The solids were filtered and the filtrate was concentrated. Chromatography on a Biotage 75S cartridge using 4 L of 17:3 v/v CH2Cl2/MeOH+1% NH4OH, then 4 L of 3:1 v/v CH2Cl2/MeOH+1% NH4OH afforded 2.60 g of the title compound: 1H NMR (500 MHz, DMSO) δ 8.08 (d, J=8.0 Hz, 2H), 7.93 (s, 1H), 7.88 (d, J=7.5 Hz, 1H), 7.47 (d, J=7.5 Hz, 1H), 7.44 (d, J=8.0 Hz, 2H), 3.85–3.88 (m, 1H), 3.50 (app t, J=7.5 Hz, 1H), 3.39 (app d, J=7.5 Hz, 2H), 3.26 (app t, J=7.5 Hz, 1H), 3.13–3.18 (m, 1H), 2.97–3.30 (m, 1H), 2.81–2.87 (m, 1H), 2.57 (app d, J=7.5 Hz, 2H), 2.49 (t, J=1.5 Hz, 1H), 2.03–2.11 (m, 1H), 1.83–1.89 (m, 1H), 0.88 (d, J=6.5 Hz, 6H); ESI-MS 418.1 (M+H).

reactant | methyl (±)-1-(5-(5-(4-(2-Methylpropyl)phenyl)-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1H-inden-1-yl)azetidine-3-carboxylate | 8.1 mmol, 4.5 g | CC(CC1=CC=C(C=C1)C1=NC(=NO1)C=1C=C2CCC(C2=CC1)N1CC(C1)C(=O)OC)C | C26H29N3O3
reactant | NaOH | 5.0 N, 3.0 mL | [OH-].[Na+]
solvent | MeOH | 25 mL | CO | CH4O
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | HCl | Cl | ClH
product | 1-(5-(5-(4-(2-Methylpropyl)phenyl)-1,2,4-oxadiazol-3-yl]-2,3-dihydro-1H-inden-1-yl)azetidine-3-carboxylic acid | 2.60 g | CC(CC1=CC=C(C=C1)C1=NC(=NO1)C=1C=C2CCC(C2=CC1)N1CC(C1)C(=O)O)C | C25H27N3O3
